US05296495
To a solution of 2-cyanomethoxy-5-methoxybenzaldehyde (420.0 g) in N,N-dimethylformamide (2.1 l), sodium hydrogen sulfide (281.5 g) was added over 16 minutes and stirred for 3 hours and 20 minutes below 8° C. After being stirred for 1 hour at 40° to 47° C., the mixture was poured into ice-water (10.5 l) with stirring. The resulting mixture was neutralized with 6N-aqueous hydrochloric acid and further stirred for 30 minutes. The resulting precipitates were collected by filtration, washed with water (1 l×5 times) and dried at 50° C. under reduced pressure to give 5-methoxy-2-benzofurancarbothioamide (408.2 g).

reactant | 2-cyanomethoxy-5-methoxybenzaldehyde | 420.0 g | C(#N)COC1=C(C=O)C=C(C=C1)OC | C10H9NO3
reactant | sodium hydrogen sulfide | 281.5 g | S.[Na]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 2.1 l | CN(C=O)C | C3H7NO
product | 5-methoxy-2-benzofurancarbothioamide | 408.2 g | COC=1C=CC2=C(C=C(O2)C(N)=S)C1 | C10H9NO2S
